US06077859
5-Amino-3-cyano-4-(cyclohept-2-enyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To 5-amino-3-cyano-4-iodo-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (2.23 g, 5 mmol, WO97/07102) and cycloheptene (3 ml) in dry DMF (25 ml), under a nitrogen atmosphere, was added bis(triphenylphosphine)palladium dichloride (100 mg, 0.13 mmol), cuprous iodide (100 mg) and triethylamine (2 ml). The mixture was heated at 65° C. for 18 h. A further 3 ml of cycloheptene was added and the mixture heated at 70° C. for 82 h. The cooled mixture was poured into water (500 ml) and extracted with DCM (2×100 ml). The organic phase was dried (MgSO4), filtered and the solvent removed in vacuo to leave a brown oil. This was purified by silica chromatography (eluting with hexane/diethyl ether 1/1 v/v). The resulting cream solid was further purified by silica chromatography (eluting with hexane, hexane/diethyl ether 19/1, hexane/diethyl ether 9/1 and finally hexane/diethyl ether 3/1) to yield 564 mg of the title compound as a cream solid.

reactant | 5-amino-3-cyano-4-iodo-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | cycloheptene | 3 ml | C1=CCCCCC1 | C7H12
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | cycloheptene | 3 ml | C1=CCCCCC1 | C7H12
reactant | water | 500 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium dichloride | 0.13 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Amino-3-cyano-4-(cyclohept-2-enyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 564 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1C=CCCCC1 | C18H15Cl2F3N4
